US07291631B2
Raney-Ni slurry (6 g) was placed in a 1 L heavy-duty hydrogenation flask under a N2 blanket. The catalyst was allowed to settle and the supernatant was removed by suction. The catalyst was washed with anhydrous MeOH (100 mL×3) by settlement and suction. Then 3-(3,4-dihydro-2H-quinoline-1-yl)pyridine-2-carbonitrile (2.35 g, 10 mmol) was added as a MeOH solution (170 mL) and the mixture was saturated with NH3 by bubbling anhydrous NH3 through the mixture for 10 minutes at room temperature. The mixture was hydrogenated at 40 psi for 4 h at room temperature on a Parr hydrogenation apparatus. The mixture was filtered through a celite pad (60 mL sintered glass fumnel, 1 cm thickness) and the filter cake was washed with MeOH (total filtrate 200 mL). The filtrate was concentrated to dryness by rotary evaporation, and the residue was purified by silica gel column chromatography (200 mL silica, 10% MeOH/CH2Cl2 containing 1% NH4OH) to give C-[3-(3,4-dihydro-2H-quinoline-1-yl)pyridine-2-yl]methylamine as a yellow oil, 2.19 g (92%).

reactant | 3-(3,4-dihydro-2H-quinoline-1-yl)pyridine-2-carbonitrile | 10 mmol, 2.35 g | N1(CCCC2=CC=CC=C12)C=1C(=NC=CC1)C#N | C15H13N3
reactant | NH3 | N | H3N
catalyst | Ni | [Ni] | Ni
solvent | MeOH | 170 mL | CO | CH4O
product | C-[3-(3,4-dihydro-2H-quinoline-1-yl)pyridine-2-yl]methylamine | N1(CCCC2=CC=CC=C12)C=1C(=NC=CC1)CN | C15H17N3
